US08377923B2
2-{1-[5-(2-bromo-4-fluorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethoxy}-5-chloro-benzonitrile (1.93 g) was suspended in ethyleneglycol (20 ml), and a 5M aqueous sodium hydroxide solution (4.3 ml) was added thereto, followed by stirring at 130° C. for 24 hours. The reaction solution was cooled to room temperature, and water was added thereto, followed by washing with ethyl acetate. The aqueous layer was acidified with 1M hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain 2-(1-{5-[2-bromo-4-(2-hydroxyethoxy)phenyl]-4-methyl-4H-1,2,4-triazol-3-yl}-1-methylethoxy)-5-chlorobenzoic acid (1.77 g) as a beige solid.

reactant | 2-{1-[5-(2-bromo-4-fluorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethoxy}-5-chloro-benzonitrile | 1.93 g | BrC1=C(C=CC(=C1)F)C=1N(C(=NN1)C(C)(OC1=C(C#N)C=C(C=C1)Cl)C)C | C19H15BrClFN4O
reactant | sodium hydroxide | 5M, 4.3 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethyleneglycol | 20 ml | C(CO)O | C2H6O2
product | 2-(1-{5-[2-bromo-4-(2-hydroxyethoxy)phenyl]-4-methyl-4H-1,2,4-triazol-3-yl}-1-methylethoxy)-5-chlorobenzoic acid | 1.77 g | BrC1=C(C=CC(=C1)OCCO)C=1N(C(=NN1)C(C)(OC1=C(C(=O)O)C=C(C=C1)Cl)C)C | C21H21BrClN3O5
